US08476297B2
To a solution of (S)-1-phenylpropan-2-amine (626 mg, 4630 μmol) in benzene (10 mL) was added 4-chlorobenzaldehyde (651 mg, 4630 μmol) and MgSO4 (1000 mg, 8308 μmol) and the suspension stirred at RT 4 h. The suspension was filtered and the solid washed with benzene (2×2 mL). The combined filtrates were concentrated to give (S)—N-(4-chlorobenzylidene)-1-phenylpropan-2-amine, which was carried on into the next step without purification.

reactant | (S)-1-phenylpropan-2-amine | 4630 μmol, 626 mg | C1(=CC=CC=C1)C[C@H](C)N | C9H13N
reactant | 4-chlorobenzaldehyde | 4630 μmol, 651 mg | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | MgSO4 | 8308 μmol, 1000 mg | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | benzene | 10 mL | C1=CC=CC=C1 | C6H6
product | (S)—N-(4-chlorobenzylidene)-1-phenylpropan-2-amine | ClC1=CC=C(C=N[C@H](CC2=CC=CC=C2)C)C=C1 | C16H16ClN
